US04925879
A mixture of 1-(4-chlorophenyl)cyclobutanecarbaldehyde (13.7 g), dry dimethylamine hydrochloride (6.6 g) and dry dimethylsulphoxide (50 ml) was added dropwise to a stirred mixture of sodium cyanide (3.9 g) in dry dimethylsulphoxide (100 ml). The mixture was stirred for 66 hours at ambient temperature and the reaction mixture was poured into water. The mixture was extracted with ether and the ether solution was then extracted with dilute hydrochloric acid. The aqueous phase was basified and extracted with ether. Removal of the ether gave 2-[1-(4-chlorophenyl)cyclobutyl]-2-dimethylaminoacetonitrile (m.p. 90°-91° C.).

reactant | 1-(4-chlorophenyl)cyclobutanecarbaldehyde | 13.7 g | ClC1=CC=C(C=C1)C1(CCC1)C=O | C11H11ClO
reactant | dimethylamine hydrochloride | 6.6 g | Cl.CNC
reactant | sodium cyanide | 3.9 g | [C-]#N.[Na+]
reactant | water | O | H2O
solvent | dimethylsulphoxide | 100 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 50 ml | CS(=O)C | C2H6OS
product | 2-[1-(4-chlorophenyl)cyclobutyl]-2-dimethylaminoacetonitrile | ClC1=CC=C(C=C1)C1(CCC1)C(C#N)N(C)C | C14H17ClN2
